US05489697
condensing ethyl butyrylacetate and phloroglucinol in the presence of an acid catalyst to form 5,7-dihydroxy-4-propylcoumarin;

reactant | ethyl butyrylacetate | C(CCC)(=O)CC(=O)OCC | C8H14O3
reactant | phloroglucinol | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
product | 5,7-dihydroxy-4-propylcoumarin | OC1=C2C(=CC(OC2=CC(=C1)O)=O)CCC | C12H12O4
